US05955495
A solution of 1.4 g (11.7 mmol) of propargyl bromide in 1 ml of dimethylformamide was added dropwise to a suspension of 1.3 g (8.4 mmol) of 3-fluoro-2-propyl-phenol and 1.7 g of potassium carbonate in 4 ml of dimethylformamide and the mixture was subsequently stirred at room temperature for one hour. The mixture was poured on to 30 ml of ice-water and extracted three times with 50 ml of dichloromethane each time. After drying concentration was carried out in a vacuum. The crude product obtained was purified by column chromatography on silica gel (dichloromethane/hexane 1:1). There were obtained 1.45 g (90%) of 1-fluoro-2-propyl-3-prop-2-ynyloxy-benzene as a pale yellow oil.

reactant | propargyl bromide | 11.7 mmol, 1.4 g | C(C#C)Br | C3H3Br
reactant | 3-fluoro-2-propyl-phenol | 8.4 mmol, 1.3 g | FC=1C(=C(C=CC1)O)CCC | C9H11FO
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-fluoro-2-propyl-3-prop-2-ynyloxy-benzene | 1.45 g, 90% | FC1=C(C(=CC=C1)OCC#C)CCC | C12H13FO
